US08956769B2
Into a tetrahydrofuran solution, 0.7 g of sodium hydride was added. After cooling to 0° C., 3 g of 3-hydroxyglutaronitrile dissolved in a tetrahydrofuran solvent was slowly dropped. After completing the dropping, dimethyl sulfate was slowly added dropwise and stirred at 0° C. for 15 minutes. After stirring at room temperature for 6 hours, the reactant was extracted using water and dichloromethane and distilled under a reduced pressure to obtain 3-methoxy glutaronitrile (yield 82%).

reactant | sodium hydride | 0.7 g | [H-].[Na+]
reactant | 3-hydroxyglutaronitrile | 3 g | OC(CC#N)CC#N | C5H6N2O
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-methoxy glutaronitrile | yield 82% | COC(CC#N)CC#N | C6H8N2O
